US07098212B2
2-(4-Chloro-2-cyanato-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone
To a solution of 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone (0.168 g, 0.427 mmol) in methylene chloride (2 mL) was added triethylamine (0.12 mL, 0.86 mmol). The solution was cooled to −5° C. via an acetone/ice bath then cyanogen bromide was added (0.22 mL, 0.66 mmol). The reaction was stirred at −5° C. for 30 minutes then concentrated in vacuo to give the crude title compound which was taken directly on to the next step (0.17 g).

reactant | 2-(4-chloro-2-hydroxy-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 0.427 mmol, 0.168 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)C)C=C1)O | C20H22ClFN2O3
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | cyanogen bromide | N#CBr | CBrN
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-2-cyanato-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | ClC1=CC(=C(OCC(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)C)C=C1)OC#N | C21H21ClFN3O3
